US03978044
5-cyclohexyl 3-methylamino 4,5,6,7-tetrahydro indazole
0.7 g of 4-cyclohexyl 2-methylthiocarbamoyl cyclohexanone dissolved in 30 ml ethanol are added with 0.15 g hydrazine hydrate. The mixture is heated to reflux for 30 mn until the evolution of sulphydric gas has ceased. 0.3 ml acetic acid are thereafter added and the whole is refluxed for 3 hours. The mixture is evaporated off giving a yellow liquid as residue. The residue is taken up with ether; the organic solution is washed with a saturated aqueous solution of sodium bicarbonate then with water until the washings are neutral, finally dried and evaporated off. 0.6 g of 5-cyclohexyl 3-methylamino 4,5,6,7-tetrahydroindazole are thus recovered and recrystallized from the minimum amount of isopropanol.

reactant | 4-cyclohexyl 2-methylthiocarbamoyl cyclohexanone | 0.7 g | C1(CCCCC1)C1CC(C(CC1)=O)C(NC)=S | C14H23NOS
reactant | hydrazine hydrate | 0.15 g | O.NN
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-cyclohexyl 3-methylamino 4,5,6,7-tetrahydro indazole | C1(CCCCC1)C1CC=2C(=NNC2CC1)NC | C14H23N3
